US07569536B2
Isonicotinoyl chloride hydrochloride (250 mg, 1.40 mmol, commercially available product) and triethylamine (287 μl, 2.07 mmol) were sequentially added at 0° C. to a dichloromethane (6 ml) solution of 2-[2-amino-4-(trifluoromethyl)phenyl]isoindoline (193 mg, 0.694 mmol), obtained as described in Referential Example 20-2. The resulting mixture was warmed to room temperature and stirred for three hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5 g, hexane/ethyl acetate=1/1). Thus, N-[2-(2-isoindolinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0620) (266 mg, quant.) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 2.07 mmol, 287 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | 2-[2-amino-4-(trifluoromethyl)phenyl]isoindoline | 0.694 mmol, 193 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2C1 | C15H13F3N2
solvent | Water | O | H2O
product | N-[2-(2-isoindolinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 266 mg | C1N(CC2=CC=CC=C12)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C21H16F3N3O
